datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC[NH:10]C1c2ccccc2C=Cc2ccccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[NH+:10](C1c2ccccc2C=Cc2ccccc21)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O-:10].Cc1cc(C)cc(C(=O)[O:21][H:20])c1>>C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O:10][H:20].Cc1cc(C)cc(C(=O)[O-:21])c1 10=20;20,21=21",
"CC([NH3+])CC(N)=[N+:21](O)[H:20].C[N:10](C)CCCCC(=O)Oc1ccccc1>>CC([NH3+])CC(N)=[N:21]O.C[N+:10](C)(CCCCC(=O)Oc1ccccc1)[H:20] 10=20;20,21=21",
"Oc1cccc2c1-c1c-2cccc1[O-:10].c1ccc(-c2cc3cccnc3c3c2ccc[n+:21]3[H:20])cc1>>Oc1cccc2c1-c1c-2cccc1[O:10][H:20].c1ccc(-c2cc3cccnc3c3c2ccc[n:21]3)cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccccn1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccccn1)[H:20] 10=20;20,21=21",
"Ic1cc(I)c2cccnc2c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Ic1cc(I)c2cccnc2c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN(CC)C(=S)[N-:10]C(=O)c1cccc(C)c1.NC(=[NH2+])NOCC(=O)[O:21][H:20]>>CCN(CC)C(=S)[N:10](C(=O)c1cccc(C)c1)[H:20].NC(=[NH2+])NOCC(=O)[O-:21] 10=20;20,21=21",
"CC(C)C[NH:10]CC(=O)c1ccc(O)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)C[NH+:10](CC(=O)c1ccc(O)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.O[C@H]1CCCCC[C@@H]1[NH2+:21][H:20]>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].O[C@H]1CCCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"CC(C#N)CC(=O)[O-:10].CCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20]>>CC(C#N)CC(=O)[O:10][H:20].CCCCC[N:21](CC(C)O)CC(O)CC 10=20;20,21=21",
"CC1=NS(=O)(=O)c2cnccc2[N:21]1[H:20].Oc1cccc2c1-c1ccc([NH2:10])cc1C2>>CC1=NS(=O)(=O)c2cnccc2[N-:21]1.Oc1cccc2c1-c1ccc([NH2+:10][H:20])cc1C2 10=20;20,21=21",
"C1CCC([NH:10]C2CCCCO2)OC1.N[NH+:21](CCO)[H:20]>>C1CCC([NH+:10](C2CCCCO2)[H:20])OC1.N[NH:21]CCO 10=20;20,21=21",
"CCC1C[N:10]1CC.O=C(Nc1cc[n+:21]([H:20])cc1)c1ccccc1>>CCC1C[N+:10]1(CC)[H:20].O=C(Nc1cc[n:21]cc1)c1ccccc1 10=20;20,21=21",
"C=CC[N:10](CC=C)CC=C.CN[NH+:21](C)[H:20]>>C=CC[N+:10](CC=C)(CC=C)[H:20].CN[NH:21]C 10=20;20,21=21",
"C1CSCC[NH:10]CCN1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CSCC[NH+:10]([H:20])CCN1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC1[C@H]([NH3+])[C@H]1[NH2+:21][H:20].S=C[N-:10]Cc1ccccc1>>CC1[C@H]([NH3+])[C@H]1[NH2:21].S=C[N:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"CCOCCn1c(CN2CCC[N+:21](CCCCn3cccn3)([H:20])CC2)nc2ccccc21.NCCC[NH2+]CCCC[NH2:10]>>CCOCCn1c(CN2CCC[N:21](CCCCn3cccn3)CC2)nc2ccccc21.NCCC[NH2+]CCCC[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc(S(=O)(=O)[NH:21][H:20])cc1.Nc1cc[n:10]nc1>>COc1ccc(S(=O)(=O)[NH-:21])cc1.Nc1cc[n+:10]([H:20])nc1 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c([O-])nc1N.[NH3+]CCSCC[NH2:10]>>Cc1c[n:21]c([O-])nc1N.[NH3+]CCSCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)NC(=S)[S:21][H:20].CCc1cn[n:10]c(C)c1>>CC(C)NC(=S)[S-:21].CCc1cn[n+:10]([H:20])c(C)c1 10=20;20,21=21",
"CC(=O)N1CCNc2nc[n:10]c(C)c21.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O:21][H:20]>>CC(=O)N1CCNc2nc[n+:10]([H:20])c(C)c21.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-:21] 10=20;20,21=21",
"CNC(=O)C1CCCC[NH+:21]1[H:20].C[n+]1cccc2ccc([O-:10])cc21>>CNC(=O)C1CCCC[NH:21]1.C[n+]1cccc2ccc([O:10][H:20])cc21 10=20;20,21=21",
"CC1[NH2+]CCC[NH:10]1.Cc1cccc(C)c1[N+:21](C)(C)[H:20]>>CC1[NH2+]CCC[NH+:10]1[H:20].Cc1cccc(C)c1[N:21](C)C 10=20;20,21=21",
"CCC([NH3+])C(=O)[O:21][H:20].C[Si](C)(CCN)O[Si](C)(C)CC[NH2:10]>>CCC([NH3+])C(=O)[O-:21].C[Si](C)(CCN)O[Si](C)(C)CC[NH2+:10][H:20] 10=20;20,21=21",
"CCSC([OH2+])[O-:10].COC(=O)c1ccc([O:21][H:20])c([N+](=O)[O-])c1>>CCSC([OH2+])[O:10][H:20].COC(=O)c1ccc([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"CC1(C)CC(=O)C(=N[O:21][H:20])C(=O)C1.O=C(c1csc(Br)c1)[O-:10]>>CC1(C)CC(=O)C(=N[O-:21])C(=O)C1.O=C(c1csc(Br)c1)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"Brc1ccc2nnn([O:21][H:20])c2c1.c1c2c(cc3[nH]c([O-:10])nc13)CCCC2>>Brc1ccc2nnn([O-:21])c2c1.c1c2c(cc3[nH]c([O:10][H:20])nc13)CCCC2 10=20;20,21=21",
"CC1=Nc2ccccc2N(C)/C1=[O+:21]\[H:20].O=S(CCc1ccccc1)[O-:10]>>CC1=Nc2ccccc2N(C)C1=[O:21].O=S(CCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1cncc(CCCC[NH2:10])c1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1cncc(CCCC[NH2+:10][H:20])c1 10=20;20,21=21",
"O/N=C/c1cccc[n+:21]1[H:20].O=C([O-])CCCCCCC[NH2:10]>>O/N=C/c1cccc[n:21]1.O=C([O-])CCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cccn[n+:21]1[H:20].Cn1cc[n:10]c1N=[N+]=[N-]>>Cc1cccn[n:21]1.Cn1cc[n+:10]([H:20])c1N=[N+]=[N-] 10=20;20,21=21",
"COCC/[N:10]=C(/c1ccccc1)C(C)(C)O.Cc1n[nH]c2cc([NH2+:21][H:20])ccc12>>COCC/[N+:10](=C(/c1ccccc1)C(C)(C)O)[H:20].Cc1n[nH]c2cc([NH2:21])ccc12 10=20;20,21=21",
"CCC[N:10](CC(C)O)CC(C)O.Cc1cnc2ccccc2[n+:21]1[H:20]>>CCC[N+:10](CC(C)O)(CC(C)O)[H:20].Cc1cnc2ccccc2[n:21]1 10=20;20,21=21",
